* Z:\home\chesito\github\Out2\amp_filtrado.asc
Q1 N004 N005 v- 0 2N3904
Q2 N005 N005 v- 0 2N3904
Q3 N003 N004 N005 0 2N3904
R1 VC N004 5.6K
Q4 VC vin1 N002 0 2N3904
R2 N002 N003 1k
R3 vin1 0 200k
C2 vo2 N002 100µ
Q5 N006 N007 v- 0 2N3904
Q6 N007 N007 v- 0 2N3904
Q7 VE N006 N007 0 2N3904
R4 VC N006 5.6K
Q8 VC vin P001 0 2N3904
Q9 N001 -vin P002 0 2N3904
R5 vin 0 390k
R6 -vin 0 390K
R7 VC N001 1.1k
C3 vin1 N001 100µ
V4 VC 0 12
V5 0 v- 12
R9 P001 VE 1K
R10 P002 VE 1K
V6 vin 0 SINE(0 1.2 10k) AC 1.2
V7 -vin 0 SINE(0 -1.2 10k) AC -1.2
R8 vo2 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\chesito\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.25 0 0.01
.backanno
.end
