* Z:\home\chesito\github\Out2\amp_filtrado.asc
Q1 N008 N009 0 0 2N3904
Q2 N009 N009 0 0 2N3904
Q3 N005 N008 N009 0 2N3904
R1 VC N008 11.2K
Q4 VC N001 N003 0 2N3904
R2 N003 N005 1k
R3 N001 0 390k
C2 vo2 N003 1µ
Q5 N006 N007 0 0 2N3904
Q6 N007 N007 0 0 2N3904
Q7 VE N006 N007 0 2N3904
R4 VC N006 11.2K
Q8 VC vin P001 0 2N3904
Q9 vin1 -vin P002 0 2N3904
R5 vin 0 390k
R6 -vin 0 390K
R7 VC vin1 1.1k
V4 VC 0 12
V5 0 v- 12
R9 P001 VE 1K
R10 P002 VE 1K
V6 vin 0 SINE(0 1.2 200) AC 1.2
V7 -vin 0 SINE(0 -1.2 200) AC -1.2
R8 vo2 0 1k
C1 N001 vin1 100µ
Q10 VC N002 N004 0 2N3904
R11 N004 N005 1k
R12 N002 0 200k
C3 vo3 N004 20µ
R13 vo3 0 1k
C4 N002 vin1 100µ
C5 VC N002 100n
.model NPN NPN
.model PNP PNP
.lib C:\users\chesito\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.25 0 0.01
.backanno
.end
